US07179807B2
A solution of 9-BBN (9-borabicyclo[3.3.1]nonane) in THF (0.5 M, 6.0 mL, 3.0 mmol) is added to a solution of 2-methyl-1-butene (210 mg, 3.0 mmol) in THF. The mixture is heated at reflux, under a nitrogen atmosphere for 12 hours and cooled. 1-(5-Bromo-3,6-diethylpyrazin-2-yl)-2,4-dimethoxybenzene (664 mg, 2.0 mmol), tetrakis(triphenylphosphine) palladium(0) (50 mg), and sodium hydroxide (3.0 M, 3.0 mL, 3.0 mmol) are added to the solution. The mixture is heated at 50 C for 12 hours and cooled. 30% Hydrogen peroxide (1 mL) is added, the solution stirred for 1 hour and the reaction mixture extracted with ether. The combined extracts are dried (sodium sulfate), filtered and concentrated. The residue is purified by flash chromatography, eluting with 40% ether in hexanes to give 1-[3,6-diethyl-5-(2-methylbutyl)pyrazin-2-yl]-2,4-dimethoxybenzene (393 mg).

reactant | 9-BBN | C12CCCC(CCC1)B2 | C8H15B
reactant | 2-methyl-1-butene | 3.0 mmol, 210 mg | CC(=C)CC | C5H10
reactant | 1-(5-Bromo-3,6-diethylpyrazin-2-yl)-2,4-dimethoxybenzene | 2.0 mmol, 664 mg | BrC=1N=C(C(=NC1CC)C1=C(C=C(C=C1)OC)OC)CC | C16H19BrN2O2
reactant | sodium hydroxide | 3.0 mmol, 3.0 M, 3.0 mL | [OH-].[Na+]
reactant | Hydrogen peroxide | 1 mL | OO | H2O2
solvent | THF | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine) palladium(0) | 50 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 3.0 mmol, 0.5 M, 6.0 mL | C1CCOC1 | C4H8O
product | 1-[3,6-diethyl-5-(2-methylbutyl)pyrazin-2-yl]-2,4-dimethoxybenzene | 393 mg | C(C)C=1C(=NC(=C(N1)CC(CC)C)CC)C1=C(C=C(C=C1)OC)OC | C21H30N2O2
